US06872834B2
Step A Preparation of 2-iodo-N-(methanesulfonyl)aniline
Methanesulfonyl chloride (4.4 mL, 57 mmol) was added to a 0° C. dichloromethane (200 mL) solution containing 2-iodoaniline (5.0 g, 23 mmol) and triethylamine (9.6 mL, 69 mmol). The resulting mixture was stirred for 90 minutes, washed with HCl (0.5 M). The organics were separated then dried over sodium sulfate and concentrated in vacuo. The residue was then treated with potassium hydroxide (2.0 M in 1:1 methanol:water, 75 mL) for 30 min. This material was then diluted with dichloromethane and washed with HCl (1.0 N, 300 mL). The organics were separated then dried over sodium sulfate and concentrated to provide the title compound (5.15 g) as a tan solid.

reactant | Methanesulfonyl chloride | 57 mmol, 4.4 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-iodoaniline | 23 mmol, 5.0 g | IC1=C(N)C=CC=C1 | C6H6IN
reactant | triethylamine | 69 mmol, 9.6 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2-iodo-N-(methanesulfonyl)aniline | 5.15 g | IC1=C(NS(=O)(=O)C)C=CC=C1 | C7H8INO2S
